US09108938B2
2-(2-(1,1-difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)acetonitrile (39 mg, 0.065 mmol, 50%) was dissolved in ammonia (2034 μl, 4.07 mmol, 2 molar in MeOH) and hydrogenated on H-Cube, by passing the solution over the Ra—Ni catcart 3 times at 60° C. and 60 bar. The solution was concentrated to afford 2-(2-(1,1-difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)ethanamine, which was used crude in the next reaction.

reactant | 2-(2-(1,1-difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)acetonitrile | 0.065 mmol, 39 mg | FC(C)(F)C1=NC=C(C=N1)C(C#N)N1CCC(CC1)(F)F | C13H14F4N4
reactant | ammonia | 4.07 mmol, 2 molar, 2034 μl | N | H3N
catalyst | Ra—Ni | [Ni] | Ni
product | 2-(2-(1,1-difluoroethyl)pyrimidin-5-yl)-2-(4,4-difluoropiperidin-1-yl)ethanamine | FC(C)(F)C1=NC=C(C=N1)C(CN)N1CCC(CC1)(F)F | C13H18F4N4
